US04980082
Preparation of (S)-ethyl 4-(2-tetrahydropyranyloxy)propoxybenzoate:
1.0 g (0.021 mol) of 50% sodium hydride, 25 ml of dimethylformamide, 3.2 g (0.019 mol) of ethyl 4-hydroxybenzoate and 6.1 g (0.019 mol) of (S)-2-tetrahydropyranyloxypropoxy p-toluenesulfonate were reacted at 60° C. for 8 h. Then the same procedure as in Referential Example 1 was repeated to obtain 5.0 g of the crude product.

reactant | sodium hydride | 0.021 mol, 1.0 g | [H-].[Na+]
reactant | ethyl 4-hydroxybenzoate | 0.019 mol, 3.2 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | (S)-2-tetrahydropyranyloxypropoxy p-toluenesulfonate | 0.019 mol, 6.1 g | C1(=CC=C(C=C1)S(=O)(=O)OOC[C@H](C)OC1OCCCC1)C | C15H22O6S
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-ethyl 4-(2-tetrahydropyranyloxy)propoxybenzoate | 5.0 g | O1[C@H](CCCC1)OCCCOC1=CC=C(C(=O)OCC)C=C1 | C17H24O5
